* C:\Users\Syouq\AppData\Local\Temp\tmpdsxmmett
I_in 0 Vin 1
R1 Vout Vin 100k
M1 Vin Vin Vout Vout AON6667_P
M2 Vout Vin 0 0 AON6667_N
R2 Vout 0 200k
R3 VCC Vin 1k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Syouq\OneDrive\??\LTspiceXVII\lib\cmp\standard.mos
.op
.backanno
.end